US09034882B2
To a solution of methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (1.49 g, 3.79 mmol, 1 equiv) in THF (38 mL) at −78° C. (IPA/CO2) was added KHMDS (6.8 mL of a 0.91M solution in THF, 6.07 mmol, 1.6 equiv). The reaction turned a deep orange color. After 15 min, 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine (1.49 g, 5.69 mmol, 1.5 equiv) was added in a single portion. The reaction solution significantly darkened and was then allowed to stir for 30 min. The reaction was then removed from the cooling bath and quenched with saturated aqueous solution of NaHCO3, added to water, and extracted with EtOAc (×3). The combined EtOAc extracts were dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica gel flash chromatography (0-100% EtOAc/hexane) to provide methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate as a waxy yellow solid (1.28 g, 82%). 1H NMR (400 MHz, CDCl3) δ 6.57 (s, 1H), 5.53 (d, J=5.3 Hz, 1H), 4.78 (br. s., 1H), 4.52 (d, J=5.3 Hz, 1H), 3.80 (s, 3H), 2.60 (s, 3H), 1.57-1.53 (m, J=3.8 Hz, 4H), 1.10 (s, 6H); LCMS (ESI, M+1): 411.2.

reactant | methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 3.79 mmol, 1.49 g, 1 equiv | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)CC(=O)OC)C)=C1 | C17H23BrN4O2
reactant | IPA CO2 | CC(C)O.C(=O)=O
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine | 5.69 mmol, 1.49 g, 1.5 equiv | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | THF | 38 mL | C1CCOC1 | C4H8O
product | methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 1.28 g, 82% | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)C(C(=O)OC)O)C)=C1 | C17H23BrN4O3
